US05215964
D. Boc-Pro-Asp(OBzl)-Pro-Phe-NH2
The mixed anhydride prepared from Boc-Pro (3.44 g, 16 mmoles), N-methyl morpholine (1.76 mL, 16 mmoles) and isobutylchloroformate (2.08 mL, 16 mmoles) in ethyl acetate (160 mL) was treated with the solution of HCl.Asp(OBzl)-Pro-Phe-NH2 and N-methyl morpholine (1.76 mL, 16 mmoles) in dimethylacetamide (30 mL). The reaction conditions and the product work up were described earlier. The product was crystallized from ethyl acetate-hexane.

reactant | Boc-Pro | 16 mmoles, 3.44 g | N1([C@H](C(=O)O)CCC1)C(=O)OC(C)(C)C | C10H17NO4
reactant | N-methyl morpholine | 16 mmoles, 1.76 mL | CN1CCOCC1 | C5H11NO
reactant | isobutylchloroformate | 16 mmoles, 2.08 mL | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | HCl | Cl | ClH
reactant | Asp(OBzl)-Pro-Phe-NH2 | N[C@@H](CC(OCC1=CC=CC=C1)=O)C(=O)N1[C@H](C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)N)CCC1 | C25H30N4O5
reactant | N-methyl morpholine | 16 mmoles, 1.76 mL | CN1CCOCC1 | C5H11NO
solvent | ethyl acetate | 160 mL | C(C)(=O)OCC | C4H8O2
solvent | dimethylacetamide | 30 mL | CC(=O)N(C)C | C4H9NO
product | Boc-Pro-Asp(OBzl)-Pro-Phe-NH2 | N1([C@H](C(=O)N[C@@H](CC(OCC2=CC=CC=C2)=O)C(=O)N2[C@H](C(=O)N[C@@H](CC3=CC=CC=C3)C(=O)N)CCC2)CCC1)C(=O)OC(C)(C)C | C35H45N5O8
